Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with no PMH who
presents with 10 days of epigastric pain.  She reports the onset
of epigastric and RUQ pain starting ten days ago.  Since then it
has been constant with periodic flares of her pain intensity. 
She states the pain is made worse with eating.  She reports
nausea but no emesis with the pain.  She also reports an episode
of diarrhea initially which has since resolved.  She has lost 6
lbs since the onset of her pain because she is not eating as
much.  She denies f/c, CP, SOB, cough, dysuria, bloody or black
stool.  She denies significant NSAID use.  She went to ___ several times due to the pain.  She was prescribed
omeprazole, tramadol, and amoxicillin 5 days ago.  She is taking
Tylenol as well.  She went back to ___ and
requested xfer to ___ for evaluation.  Concern was raised for
cholecystitis and she was evaluated by surgery.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
None
 
Social History:
___
Family History:
Mother with stomach ulcer.
 
Physical Exam:
Admission:
GENERAL: Alert and in no apparent distress, thin appearing
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate, MM dry
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, mild epigastric TTP without
reboud or guarding.  Bowel sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
PSYCH: pleasant, appropriate affect

Discharge:
GENERAL: Alert and in no apparent distress, thin appearing
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate, MM dry
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, very mild epigastric TTP 
without
reboud or guarding, improving.  Bowel sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
Admission:

___ 09:28PM URINE  HOURS-RANDOM
___ 09:28PM URINE  UCG-NEGATIVE
___ 09:28PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 09:28PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-40* BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 09:26PM   GLUCOSE-94 UREA N-9 CREAT-0.6 SODIUM-136 
POTASSIUM-3.9 CHLORIDE-103 TOTAL CO2-23 ANION GAP-10
___ 09:26PM   estGFR-Using this
___ 09:26PM   ALT(SGPT)-11 AST(SGOT)-19 ALK PHOS-33* TOT 
BILI-0.4
___ 09:26PM   LIPASE-30
___ 09:26PM   ALBUMIN-4.9
___ 09:26PM   WBC-8.6 RBC-4.61 HGB-13.4 HCT-40.6 MCV-88 
MCH-29.1 MCHC-33.0 RDW-11.9 RDWSD-37.9
___ 09:26PM   NEUTS-50.7 ___ MONOS-4.9* EOS-5.8 
BASOS-0.6 IM ___ AbsNeut-4.33 AbsLymp-3.24 AbsMono-0.42 
AbsEos-0.50 AbsBaso-0.05
___ 09:26PM   PLT COUNT-337

Discharge:

___ 05:48AM BLOOD WBC-7.0 RBC-4.11 Hgb-12.1 Hct-36.1 MCV-88 
MCH-29.4 MCHC-33.5 RDW-11.8 RDWSD-37.9 Plt ___
___ 09:26PM BLOOD Neuts-50.7 ___ Monos-4.9* Eos-5.8 
Baso-0.6 Im ___ AbsNeut-4.33 AbsLymp-3.24 AbsMono-0.42 
AbsEos-0.50 AbsBaso-0.05
___ 05:48AM BLOOD Glucose-73 UreaN-9 Creat-0.7 Na-137 K-4.5 
Cl-102 HCO3-22 AnGap-13
___ 05:48AM BLOOD ALT-8 AST-13 AlkPhos-26* TotBili-0.6
___ 05:48AM BLOOD Calcium-8.9 Phos-4.3 Mg-2.1
___ 09:26PM BLOOD Albumin-4.9

Imaging:
RUQUS ___:  
IMPRESSION:  
  
Mildly distended gallbladder containing sludge with trace 
pericholecystic 
fluid without wall thickening or mural edema are not definite 
for acute 
cholecystitis.  If there is a persistent concern for acute 
cholecystitis a 
HIDA scan can be considered for further evaluation. 

HIDA ___: 
 
FINDINGS:  Serial images over the abdomen show homogeneous 
uptake of tracer into 
the hepatic parenchyma. 
  
At 8 minutes, the gallbladder is visualized with tracer activity 
noted in the 
small bowel at 20 minutes. 
  
IMPRESSION:  Normal hepatobiliary scan.  No evidence of 
cholecystitis. 

 
Brief Hospital Course:
Ms. ___ is a ___ woman with no significant PMH who 
presents with 10 days of epigastric pain with unclear etiology, 
likely IBS exacerbated by recent viral gastroenteritis.

# Epigastric pain
#Likely IBS
Symptoms are most consistent with IBS vs. post-gastroenteritis 
gastritis, although etiology is not entirely clear. RUQUS showed 
possible gallbladder dilation and sludge but HIDA was negative. 
She was seen by GI here who did not feel that she would benefit 
from more inpatient workup including EGD. H. pylori is a 
consideration so we sent a stool H. Pylori antigen, pending at 
discharge. She had a blood test for H. pylori antibody at ___ 
___ but this came back within normal range, and also 
this does not help diagnose acute illess, just exposure. GI also 
felt that there could be an element of IBS so recommended 
anti-spasmotic with Bentyl and bowel regimen with senna and 
miralax, which she will be discharged with. She has outpatient 
GI Follow up and plan for EGD in 3 weeks. Of note, she was 
prophylactically started on amoxicillin and a PPI (but not true 
triple therapy) but there was not clearly a H. pylori diagnosis. 
We will stop the amoxicillin unless H. pylori stool antigen 
comes back positive. We will also hold the PPI given no clear 
indication and its ability to alter H. pylori results. She was 
also given a prescription for Align probiotic.

Transitional Issues:
[] GI follow up on discharge
[] we sent a stool H. Pylori antigen, pending at discharge

>30 minutes were spent preparing this discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 40 mg PO DAILY 
2. Amoxicillin 875 mg PO Q12H 
3. Ranitidine 300 mg PO DAILY 
4. TraMADol 50 mg PO TID:PRN Pain - Moderate 

 
Discharge Medications:
1.  Align (Bifidobacterium infantis) 10.5 mg (10 million cell) 
oral DAILY 
RX *Bifidobacterium infantis [Align] 4 mg (1 billion cell) 1 
capsule(s) by mouth once a day Disp #*30 Capsule Refills:*0 
2.  Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
heartburn  
3.  DICYCLOMine 20 mg PO TID 
RX *dicyclomine 20 mg 1 tablet(s) by mouth three times a day 
Disp #*90 Tablet Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Miralax] 17 gram/dose 1 dose by 
mouth once a day Refills:*0 
5.  Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
6.  Ranitidine 300 mg PO DAILY  
7.  TraMADol 50 mg PO TID:PRN Pain - Moderate  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: IBS, viral gastroenteritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ because of ongoing abdominal pain. 
Imaging studies did not identify any issues with your 
gallbladder or other organs. GI saw you and they felt that this 
was likely IBS, related to a recent gastroenteritis infection. 
We will focus on treating your spasms with Bentyl (dicyclomine). 
You should also take medications to help you have bowel 
movements and see your GI doctor.

We wish you all the best.

Sincerely,

Your care team at ___
 
Followup Instructions:
___